US07732365B2
N-(1-Phenyl-2-propenyl)benzylamine (Takeuchi, R.; Ue, N.; Tanabe, K.; Yamashita, K.; Shiga, N. J. Am. Chem. Soc. 2001, 123, 9525):
N-(1-Phenyl-2-propenyl)-4-methoxybenzylamine (Yadav, J. S.; Bandyopadhyay, A.; Reddy, B. V. S. Tetrahedron Lett. 2001, 42, 6385: The general procedure was followed with 4-methoxybenzylamine (186 mg, 1.35 mmol) and cinnamyl methylcarbonate (199 mg, 1.04 mmol). The reaction was conducted at room temperature for 18 h. 1H NMR analysis of the crude mixture indicated the ratio of regioisomers and diallylation product to be 98/0/2. The mixture was purified by flash column chromatography on silica gel (5% ethyl acetate in hexane) to give the title compound (210 mg, 80%). HPLC analysis indicated that the enantiomeric excess of product was 94% [Daicel CHIRALCEL OD-H (0.46 cm×25 cm); hexane/2-propanol=99.75/0.25; flow rate=0.5 mL/min; detection wave length=230 nm; TR=26.2 (major), 29.3 (minor) min]: [α]DRT=−1.8 (c 5.5, CHCl3). 1H NMR (400.13 MHz, CDCl3) δ 7.21-7.38 (m, 7H), 6.86 (d, J=8.4 Hz, 2H), 5.94 (ddd, J=17.2, 10.0, 7.6 Hz, 1H), 5.22 (dt, J=17.2, 1.4 Hz, 1H), 5.11 (ddd, J=10.0, 1.6, 1.2 Hz, 1H), 4.21 (d, J=7.6 Hz, 1H), 3.80 (s, 3H), 3.68 (d of AB pattern, J=13.0 Hz, 1H), 3.64 (d of AB pattern, J=13.0 Hz, 1H), 1.58 (brs, 1H). 13C NMR (125.77 MHz, CDCl3) δ 158.54, 142.84, 141.01, 132.56, 129.29, 128.49, 127.30, 127.14, 115.05, 113.72, 64.99, 55.24, 50.65.

reactant | N-(1-Phenyl-2-propenyl)-4-methoxybenzylamine | C1(=CC=CC=C1)C(C=C)NCC1=CC=C(C=C1)OC | C17H19NO
reactant | 4-methoxybenzylamine | 1.35 mmol, 186 mg | COC1=CC=C(CN)C=C1 | C8H11NO
product | N-(1-Phenyl-2-propenyl)benzylamine | 210 mg, 80% | C1(=CC=CC=C1)C(C=C)NCC1=CC=CC=C1 | C16H17N
